US07345056B2
Bis-(2-oxo-ethyl)-carbamic acid tert-butyl ester
Sodium periodate (20.31 g, 94.96 mmol) in H2O (118 mL) was added to a cooled solution of 3,4-dihydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (19.3 g, 94.6 mmol) in THF (158 mL) over a 30 minute period. The resulting white suspension was allowed to stir at room temperature for 3 h. The suspension was filtered and the filtrate concentrated under vacuum to remove the THF. The resulting aqueous solution was used directly in the next reaction.

reactant | Sodium periodate | 94.96 mmol, 20.31 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 3,4-dihydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 94.6 mmol, 19.3 g | C(C)(C)(C)OC(=O)N1CC(C(C1)O)O | C9H17NO4
solvent | H2O | 118 mL | O | H2O
solvent | THF | 158 mL | C1CCOC1 | C4H8O
product | Bis-(2-oxo-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC=O)CC=O)=O | C9H15NO4
